US06110934
[4-(tert-Butyldimethylsilanyloxymethyl)-3-methoxyphenyl]-phenylmethanol
To 2-(tert-Butyldimethylsilanyloxymethyl)-5-bromoanisole (500 mg, 1.51 mmol) in THF (10 ml) at -78° C. was added n-BuLi (1.13 ml of a 1.6M solution in penthane, 1.81 mmol) and the mixture allowed to stir for 1 h at -78° C. Benzaldehyde (176 mg, 1.66 mmol) was added and the mixture allowed to warm to room temperature and stirred for 1 h. Water (20 ml) was added and the mixture extracted with ether (3×10 ml). The combined extracts were washed with water (10 ml), brine (10 ml), dried (Na2SO4) and evaporated under reduced pressure. The resulting residue was purified by chromatography (SiO2, 50% ether/petrol) to give the title compound as a colourless oil (303 mg, 56%).

reactant | 2-(tert-Butyldimethylsilanyloxymethyl)-5-bromoanisole | 1.51 mmol, 500 mg | [Si](C)(C)(C(C)(C)C)OCC1=C(C=C(C=C1)Br)OC | C14H23BrO2Si
reactant | n-BuLi | [Li]CCCC
reactant | Benzaldehyde | 1.66 mmol, 176 mg | C(C1=CC=CC=C1)=O | C7H6O
reactant | Water | 20 ml | O | H2O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | [4-(tert-Butyldimethylsilanyloxymethyl)-3-methoxyphenyl]-phenylmethanol | 303 mg, 56% | [Si](C)(C)(C(C)(C)C)OCC1=C(C=C(C=C1)C(O)C1=CC=CC=C1)OC | C21H30O3Si
